US06310033B1
The reaction was repeated utilizing an equimolar quantity of dimethyl malonate in place of the cyanoacetic acid to yield methyl 4-methyl-5-phenylpentanoate. Repeating the cyanoacetic acid condensation/reduction reaction utilizing 5phenylpentan-3-one as the starting material afforded 3-ethyl-5-phenylpentanenitrile.

reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
reactant | 5phenylpentan-3-one | C1(=CC=CC=C1)CCC(CC)=O | C11H14O
product | 3-ethyl-5-phenylpentanenitrile | C(C)C(CC#N)CCC1=CC=CC=C1 | C13H17N
